US06384115B1
(c) N-(2-hydroxyethyl)-p-toluenesulphonamide (BC)
The preparation is carried out as in Example 1(a) but this time 381.3 g of p-toluenesulphonyl chloride (2 mol) and 128.3 g of ethanolamine (2.1 mol) are used for the reaction. The amount obtained is 400.8 g, i.e. a yield of 94.8%.

reactant | p-toluenesulphonyl chloride | 2 mol, 381.3 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | ethanolamine | 2.1 mol, 128.3 g | C(O)CN | C2H7NO
product | N-(2-hydroxyethyl)-p-toluenesulphonamide | yield of 94.8% | OCCNS(=O)(=O)C1=CC=C(C=C1)C | C9H13NO3S
